US06255276B1
25 g (0.10 mol) of Z-8-methyloxacyclopentadec-7-en-2-one were dissolved in 150 ml of methanol and hydrogenated (1.5 hours) with 2 g of 5% palladium-on-carbon with 100 mbar over-pressure. Then, the mixture was filtered over Celite, and the solution was concentrated, distilled in a bulb-tube and chromatographed. There were obtained 20 g (83%) of 8-methyloxacyclopentadecan-1-one were obtained having the following characteristics:

reactant | Z-8-methyloxacyclopentadec-7-en-2-one | 0.10 mol, 25 g | C/C/1=C/CCCCC(OCCCCCCC1)=O | C15H26O2
reactant | methanol | 150 ml | CO | CH4O
catalyst | palladium-on-carbon | 2 g | [Pd] | Pd
product | 8-methyloxacyclopentadecan-1-one | 20 g, 83% | CC1CCCCCOC(CCCCCCC1)=O | C15H28O2
